US06881733B1
4,5-difluoro-7-bromobenzofuran
Beginning with 5 gm (23.9 mMol) 2-bromo-4,5-difluorophenol, 7.05 gm (91%) 2-(2-bromo-4,5-difluorophenoxy)acetaldehyde diethyl acetal were prepared essentially as described in Preparation IV.

reactant | 2-bromo-4,5-difluorophenol | 23.9 mMol, 5 gm | BrC1=C(C=C(C(=C1)F)F)O | C6H3BrF2O
reactant | 2-(2-bromo-4,5-difluorophenoxy)acetaldehyde diethyl acetal | 7.05 gm | C(C)OC(COC1=C(C=C(C(=C1)F)F)Br)OCC | C12H15BrF2O3
product | 4,5-difluoro-7-bromobenzofuran | FC1=C(C=C(C2=C1C=CO2)Br)F | C8H3BrF2O
